US07414036B2
To a stirred solution of 2,6-dibromopyridine (3 g, 12.7 mmol) in a mixture of THF (8 mL), ether (16 mL), and hexane (8 mL) was added n-BuLi (7.94 mL, 12.7 mmol, 1.6 M in hexane) drop-by-drop at −78° C. over 5 min. After the mixture was stirred for 5 min, DMF (2.01 mL, 26.3 mmol) was slowly added dropwise to the mixture over 10 min at the same temperature. The reaction mixture was warmed to −50° C. and quenched with MeOH (15 mL). Then, NaBH4 (487 mg, 12.9 mmol) was added at room temperature. After addition of acetone (1.5 mL), the mixture was diluted with EtOAc (300 mL). The whole was washed with water (6 mL×3) and brine (6 mL) and dried over MgSO4. Solvent was evaporated and the residue was purified by column chromatography on silica gel eluted with 20% EtOAc in hexane to give 380 mg (13%) of 2-Bromo-6-(methylaminomethylcarbonyl)pyridine and 1.11 g (46%) of the oil 2-bromo-6-hydroxymethylpyridine. Bromo-6-(methylaminomethylcarbonyl)pyridine: 1H NMR (CDCl3) δ 7.53 (m, 1H, H-4), 7.38 (d, 1H, J=7.9 Hz), 7.28 (d, 1H, J=7.5 Hz), 5.14 (s, 2H, CH2), 2.12 (s,3H, Me); 13C NMR (CDCl3) δ 170.9 (CO), 157.7 (C-6), 142.1 (C-2), 139.5 (C-4), 127.7 (C-3), 120.9 (C-5), 66.4 (CH2), 21.3 (Me). Mass spectrum (ES+): m/e 230 (M++1). 2-bromo-6-hydroxymethylpyridine: 1H NMR (CDCl3) δ 7.56 (t, 1H, J=7.7 Hz), 7.46 (d, 1H, J=7.7 Hz), 7.37 (d, 1H, J=7.7 Hz), 4.85 (s, 2H, CH2); 13C NMR (CDCl3) δ 162.0 (C-6), 141.7 (C-2), 139.6 (C-4), 124.8 (C-3), 119.8 (C-5), 64.6 (CH2).

reactant | 2,6-dibromopyridine | 12.7 mmol, 3 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | n-BuLi | 12.7 mmol, 1.6 M, 7.94 mL | [Li]CCCC
reactant | DMF | 26.3 mmol, 2.01 mL | CN(C)C=O | C3H7NO
reactant | NaBH4 | 12.9 mmol, 487 mg | [BH4-].[Na+]
reactant | THF | 8 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | acetone | 1.5 mL | CC(=O)C | C3H6O
solvent | hexane | 8 mL | CCCCCC | C6H14
solvent | ether | 16 mL | CCOCC | C4H10O
product | 2-Bromo-6-(methylaminomethylcarbonyl)pyridine | 380 mg, 13% | BrC1=NC(=CC=C1)C(=O)CNC | C8H9BrN2O
